US06124347
Synthesis of 2-amino-1-[3,5-dimethoxy-4-(methoxymethoxy)phenyl]-1-ethanol (Compound (4))
To a solution of 1-[3,5-dimethoxy-4-(methoxymethoxy)-phenyl]-2-nitro-1-ethanol (11.78 g, 41.0 mmol) in ethanol (100 ml) was added 10% palladium on charcoal (3.5 g), followed by hydrogenation at room temperature for 6 hours. After completion of the reaction, the catalyst was filtered off. The filtrate was concentrated, whereby the title compound (8.57 g, yield: 81.6%) was obtained as colorless crystals.

reactant | 1-[3,5-dimethoxy-4-(methoxymethoxy)-phenyl]-2-nitro-1-ethanol | 41.0 mmol, 11.78 g | COC=1C=C(C=C(C1OCOC)OC)C(C[N+](=O)[O-])O | C12H17NO7
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 3.5 g | [Pd] | Pd
product | 2-amino-1-[3,5-dimethoxy-4-(methoxymethoxy)phenyl]-1-ethanol | 8.57 g, yield: 81.6% | NCC(O)C1=CC(=C(C(=C1)OC)OCOC)OC | C12H19NO5
